US09422290B2
[6-(1-Benzyl-1H-indol-2-yl)-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-yl]-(1-methyl-piperidin-4-yl)-amine
[6-(1-Benzyl-1H-indol-2-yl)-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-yl]-piperidin-4-yl-amine (10 mg; 0.02 mmol) was dissolved in 300 μl THF, treated with glacial acetic acid (3 μl 0.05 mmol) and formaldehyde (7 μl; 0.09 mmol). At least was added STAB (6 mg; 0.03 mmol) and all stirred for 2 hours. The crude reaction mixture was purified by reversed phase under basic conditions.

reactant | [6-(1-Benzyl-1H-indol-2-yl)-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-yl]-piperidin-4-yl-amine | 0.02 mmol, 10 mg | C(C1=CC=CC=C1)N1C(=CC2=CC=CC=C12)C=1C=C(C=2N(N1)C(=NN2)C)NC2CCNCC2 | C26H27N7
reactant | acetic acid | 0.05 mmol, 3 μl | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 0.09 mmol, 7 μl | C=O | CH2O
solvent | THF | 300 μl | C1CCOC1 | C4H8O
product | [6-(1-Benzyl-1H-indol-2-yl)-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-yl]-(1-methyl-piperidin-4-yl)-amine | C(C1=CC=CC=C1)N1C(=CC2=CC=CC=C12)C=1C=C(C=2N(N1)C(=NN2)C)NC2CCN(CC2)C | C27H29N7
